Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Tylenol / Neurontin
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ man presents for evaluation of abdominal pain. 
Patient recently hospitalized for acute exacerbation of his
chronic abdominal pain, likely partial bowel obstruction. 
Discharged yesterday after undergoing conservative management of
likely partial bowel obstruction; of note at the time of
discharge he was pain-free and tolerating a regular diet, as 
well
as having bowel function.  Also had repeat ultrasound of liver
which showed resolution of prior portal vein partially occlusive
thrombus. Patient reports arriving to his daughter's home, 
having
a cup of tea and dinner without issue.  However overnight his
abdominal pain recurred and he decided to come back in for
evaluation.  He denies any nausea or vomiting, has not had a
bowel movement since leaving the hospital yesterday.  Denies any
fevers, chills, dysuria, chest pain, shortness of breath,
numbness, tingling.  Transplant surgery is consulted to evaluate
for surgical causes of recurrent abdominal pain.

ROS:
(+) per HPI

 
Past Medical History:
 - Hepatitis C (genotype 3)  
 - Cirrhosis, Child's Class C due EtOH and HCV d/b hepatic 
encephalopathy, portal hypertension with ascites and esophageal 
varices, portal hypertensive gastropathy  
 - Gastric & Duodenal ulcers  
 - Insomnia  
 - Umbilical hernia  
 - Sacral osteoarthritis  
 
Past Surgical History:  
 - Umbilical hernia repair (___)  
 -SBO requiring Ex lap & repair of ruptured umbilical hernia 
with lysis of adhesions (___)
 - Abdominal Hematoma evacuation (___)  
 - Abdominal incision opened, wound vac placed (___) 
 
Social History:
___
Family History:
Sister and brother both with "collapsed lungs." No family 
history of liver disease.
 
Physical Exam:
Admission Exam:
==================
VITAL SIGNS:  97.9 65 165/75 16 99% RA 
GENERAL: AAOx3 NAD
HEENT: NCAT, EOMI, PERRLA, No scleral icterus, mucosa moist, no 
LAD
CARDIOVASCULAR: R/R/R
PULMONARY: CTA ___, No crackles or rhonchi
GASTROINTESTINAL: protuberant, soft, more distended than usual,
tender to palpation in right hemi-abdomen, left hemi-abdomen
mildly tender, No guarding, rebound, or peritoneal signs.
EXT/MS/SKIN: No C/C/E; Feet warm. Good perfusion.
NEUROLOGICAL: Reflexes, strength, and sensation grossly intact
.
Discharge Exam:
===================
VS: 97.8 123/72 70 18 98% RA  
GENERAL: NAD, patient appears chronically ill, sunken temples,
A&Ox3   
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
adentulous
NECK: supple, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: protuberant abdomen, not tense, decreased bowel sounds.
Tender to moderate palpation, mostly on R side. Multiple 
surgical
scars appearing c/d/i.
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no
rashes
 
Pertinent Results:
Labs on admission:
========================
___ 07:00AM BLOOD WBC-5.7 RBC-3.43* Hgb-11.5* Hct-35.6* 
MCV-104* MCH-33.5* MCHC-32.3 RDW-14.9 RDWSD-57.2* Plt ___
___ 07:45AM BLOOD WBC-5.9 RBC-3.49* Hgb-11.7* Hct-36.4* 
MCV-104* MCH-33.5* MCHC-32.1 RDW-14.7 RDWSD-57.0* Plt ___
___ 07:00AM BLOOD ___ PTT-35.6 ___
___ 07:45AM BLOOD ___
___ 04:42AM BLOOD Glucose-90 UreaN-4* Creat-0.7 Na-136 
K-4.6 Cl-102 HCO3-26 AnGap-8*
___ 04:42AM BLOOD ALT-17 AST-50* AlkPhos-110 TotBili-2.4*
.
Microbiology:
========================
 
___ 7:31 am PERITONEAL FLUID      PERITONEAL FLUID. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 

   FLUID CULTURE (Final ___:    NO GROWTH. 

   ANAEROBIC CULTURE (Preliminary):    NO GROWTH. 
.

___ 07:31AM ASCITES TNC-37* RBC-92* Polys-1* Lymphs-30* 
Monos-8* Basos-1* Macroph-60*
___ 07:31AM ASCITES TotPro-0.4 Glucose-101
.
.
Reports/imaging:
========================
RUQ ultrasound:
IMPRESSION: 
1. Cirrhotic liver, without evidence of focal lesion. 
2. Mild to moderate ascites and a right pleural effusion. 
3. Patent main and right portal vein with appropriate direction 
of flow. 
.
Abdominal XR:
IMPRESSION:  
Borderline diameter of a single loop of small bowel with a few 
small 
nonspecific small bowel air-fluid levels and air seen in the 
colon.  Findings are nonspecific, but a very early/very mild 
partial small bowel obstruction is not entirely excluded in the 
appropriate clinical setting. 
.
CT abd and pelvis with contrast
IMPRESSION: 
1. Redemonstration cirrhotic liver with sequela of portal 
hypertension.  New branching hypoattenuation in segments VIII 
and ___ may be due to periportal edema or inflammation along 
intrahepatic biliary ducts, the latter possibly related to 
cholangitis.  The main portal vasculature is patent. 
2. Moderate amount of ascites, as on prior.  Mild peritoneal 
enhancement 
without free air or drainable fluid collections, could represent 
peritonitis or secondary to recent paracentesis. 
.
Labs on discharge:
========================
___ 06:32AM BLOOD WBC-6.6 RBC-2.84* Hgb-9.8* Hct-29.5* 
MCV-104* MCH-34.5* MCHC-33.2 RDW-14.2 RDWSD-54.1* Plt ___
___ 06:32AM BLOOD Glucose-109* UreaN-7 Creat-0.7 Na-133* 
K-4.3 Cl-100 HCO3-24 AnGap-9*
___ 06:32AM BLOOD ALT-17 AST-50* AlkPhos-104 Amylase-110* 
TotBili-1.7*
___ 07:00AM BLOOD Lipase-42
___ 06:32AM BLOOD Lipase-32
___ 06:32AM BLOOD Calcium-7.6* Phos-2.8 Mg-1.___ with Cirrhosis, Child's Class C due EtOH and HCV d/b hepatic 
encephalopathy, portal hypertension with ascites and esophageal 
varices, portal hypertensive gastropathy; hx numerous abdominal 
surgeries with suspected frozen abdomen, chronic abdominal pain 
with subacute worsening. Patient had recent admission with small 
bowel obstruction that was treated conservatively with NG tube 
and bowel rest and resolved, who went home with decreased pain 
med regimen, and who is now returning with worsening abdominal 
pain. 
.
#Abdominal pain
CT abd pain pelvis showed no obstruction or extravasation of 
contrast. Patient was first placed on home pain regiment (oxy 
10mg q6hr) with improvement of pain, but given increased pain at 
4hours after oxy dose, chronic pain service recommended a 
regimen of 7.5mg oxy every 4 hours, which better controlled 
pain. Lidocaine patch attempted for back pain but without 
noticeable change. Patient was eating regular diet and with 
ongoing ___ pain but appearing comfortable, walking, 
eating and passing soft stool.
.
#Cirrhosis
With regards to cirrhosis, Child's Class C due EtOH and HCV, 
with past hepatic
encephalopathy, portal hypertension with ascites and esophageal 
varices, portal hypertensive gastropathy. No evidence of 
decompensation during this hospitalization. Para was done that 
did not show SBP.
.
TRANSITIONAL ISSUES:
[] CHANGED oxycodone 10mg q6hr to 7.5mg q4hr with improvement in 
pain control
[] STARTED miralax, thiamine
[] Please consider outpatient pain consult if worsening pain
[] CONTACT: ___ (HCP, sister) ___

 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Famotidine 20 mg PO BID 
2. Furosemide 20 mg PO DAILY 
3. OxyCODONE (Immediate Release) 10 mg PO Q6H:PRN pain 
4. Spironolactone 50 mg PO DAILY 
5. Sulfameth/Trimethoprim SS 1 TAB PO DAILY SBP prophylaxis 
6. Simethicone 40-80 mg PO TID:PRN gas pain 
7. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral DAILY 
8. Lactulose 30 mL PO QID 
9. Multivitamins 1 TAB PO DAILY 
10. Potassium Chloride 20 mEq PO DAILY 
11. Bisacodyl ___AILY:PRN constipation 

 
Discharge Medications:
1.  Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 [ClearLax] 17 gram/dose 1 scoop 
powder(s) by mouth daily Disp #*1 Package Refills:*0 
2.  Simethicone 40-80 mg PO TID:PRN gas pain  
3.  Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth daily 
Disp #*30 Tablet Refills:*0 
4.  OxyCODONE (Immediate Release) 7.5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone [Oxaydo] 7.5 mg 1 tablet(s) by mouth every 4 hours 
Disp #*42 Tablet Refills:*0 
5.  Bisacodyl ___AILY:PRN constipation  
6.  Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral DAILY  
7.  Famotidine 20 mg PO BID  
8.  Furosemide 20 mg PO DAILY  
9.  Lactulose 30 mL PO QID 
Titrate to ___ bowel movements daily  
10.  Multivitamins 1 TAB PO DAILY  
11.  Potassium Chloride 20 mEq PO DAILY  
12.  Spironolactone 50 mg PO DAILY  
13.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY SBP prophylaxis  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
=============
Cirrhosis
Intermittent abdominal pain of unknown origin
Intraabdominal bowel adhesions
.
Secondary:
=============
History of multiple abdominal surgeries

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear. Mr. ___,
.
It was a pleasure taking part in your care at ___ 
___. You were seen for increasing abdominal 
pain. A number of tests, including laboratory and a CT scan were 
reassuring. You were initially on the surgical service, but the 
surgical team did not feel there was any problem requiring 
surgery. You were seen by the chronic pain service that made an 
adjustment to the dose and timing of your pain medication. 
Please take this new dose as prescribed. Please take the new 
medications as prescribed.
.
Please call the surgery doctor, ___ office at 
___ if you are having increasing abdominal pain, 
inability to tolerate diet, not passing gas or having bowel 
movements, nausea, vomiting or any other concerning GI 
complaints.
.
You are likely to be having intermittent abdominal pain. Please 
work with your primary care physician regarding your pain 
management strategies.
.
No driving if taking narcotic pain medication.
.
Try to eat small frequent meals, using no additional salt, stay 
hydrated.
.
We wish you the best,
Your ___ care team

 
Followup Instructions:
___